US05811456
Example 9: Preparation of the compound (I-a5): 4-(Benzyloxy)benzaldehyde acetyl (2 -methoxycarbonylethyl) hydrazone
A solution of 5×10-3 moles of 4-(benzyloxy)benzaldehyde acetylhydrazone (1.34 g) in 5 ml of anhydrous DMF is added to 5×10-3 moles of sodium hydride (0.12 g) in suspension in 10 ml of anhydrous DMF. The reaction mixture is heated slowly on a water bath at 80° C. for 30 minutes. After cooling, a solution containing 0.85 g (5.1×10-3 moles) of methyl 3-bromopropionate in 5 ml of DMF is slowly added to the mixture. The latter is stirred for one hour at room temperature, then it is poured into 100 ml of ice-cold water. A product precipitates. After standing for 30 minutes, it is filtered, subjected to draining, at the end of which it is chromatographed on a MACHEREY-NAGEL silica gel 60 (0.04-0.063 ml) using a mixture of ethyl acetate and dichloromethane (1/9) as eluent. The oil obtained precipitates. The compound (I-a5) is slowly recrystallized from ether. Its melting point is 170° C. The reaction yield is 11%.

reactant | 4-(benzyloxy)benzaldehyde acetylhydrazone | 5×10-3 moles, 1.34 g | C(C)(=O)NN=CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H16N2O2
reactant | sodium hydride | 5×10-3 moles, 0.12 g | [H-].[Na+]
reactant | methyl 3-bromopropionate | 5.1×10-3 moles, 0.85 g | BrCCC(=O)OC | C4H7BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(Benzyloxy)benzaldehyde acetyl (2 -methoxycarbonylethyl) hydrazone | C(C)(=O)N(N=CC1=CC=C(C=C1)OCC1=CC=CC=C1)CCC(=O)OC | C20H22N2O4
